US05206240
Step D: Preparation of 2'-Nitrospiro(piperidine-4,6'-(6H)thieno[2,3-b]thiopyran)-4'(5'H)-one hydrochloride
A suspension of 1.1 g (2.9 mmol) of 2'-nitro-1-(benzoyl)spiro(piperidine-4,6'-(6H)thieno[2,3-b]thiopyran)-4'(5'H)-one in 25 mL methanol was treated with 25 ml of 6N HCl and heated to reflux for 3 days. The reaction was cooled to ambient temperature and the solid collected and dried in vacuo, to give 680 mg (73%) of the product, mp=262° C.

reactant | 2'-nitro-1-(benzoyl)spiro(piperidine-4,6'-(6H)thieno[2,3-b]thiopyran)-4'(5'H)-one | 2.9 mmol, 1.1 g | [N+](=O)([O-])C1=CC2=C(SC3(CC2=O)CCN(CC3)C(C3=CC=CC=C3)=O)S1 | C18H16N2O4S2
reactant | HCl | 6N, 25 ml | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | 2'-Nitrospiro(piperidine-4,6'-(6H)thieno[2,3-b]thiopyran)-4'(5'H)-one hydrochloride | 680 mg, 73% | Cl.[N+](=O)([O-])C1=CC2=C(SC3(CC2=O)CCNCC3)S1 | InChI=1S/C11H12N2O3S2.ClH/c14-8-6-11(1-3-12-4-2-11)18-10-7(8)5-9(17-10)13(15)16;/h5,12H,1-4,6H2;1H
